US04820821
9.6 g (94.9 millimoles) of triethylamine were added dropwise to 7.5 g (36.1 millimoles) of 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride and 8.3 g (39.6 millimoles) of 3,5-dichlorobenzoyl chloride in 100 ml of methylene chloride at room temperature, while stirring. Stirring was continued at room temperature for a further 2 hours, after which the product ws filtered off under suction, washed first with water and then with acetone and recrystallized from toluene. 8.0 g (64% of theory) of 4-(3,5-dichlorobenzoyl)-imino-1,4-dihydro-1-phenylpyridazine were isolated as yellow crystals of melting point 242°-244° C.

reactant | triethylamine | 94.9 millimoles, 9.6 g | C(C)N(CC)CC | C6H15N
reactant | 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride | 36.1 millimoles, 7.5 g | Cl.N=C1C=NN(C=C1)C1=CC=CC=C1
reactant | 3,5-dichlorobenzoyl chloride | 39.6 millimoles, 8.3 g | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-(3,5-dichlorobenzoyl)-imino-1,4-dihydro-1-phenylpyridazine | 8.0 g, 64% | ClC=1C=C(C(=O)C2C(NN(C=C2)C2=CC=CC=C2)=N)C=C(C1)Cl | C17H13Cl2N3O
